Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
erythromycin base
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
ERCP

attach
 
Pertinent Results:
Admission Labs:
===============
___ 05:25PM BLOOD WBC-5.6 RBC-3.79* Hgb-11.6 Hct-34.7 
MCV-92 MCH-30.6 MCHC-33.4 RDW-12.0 RDWSD-40.5 Plt ___
___ 05:25PM BLOOD Glucose-103* UreaN-12 Creat-0.7 Na-144 
K-4.7 Cl-107 HCO3-29 AnGap-8*
___ 09:40AM BLOOD ALT-196* AST-56* AlkPhos-305* TotBili-0.3
___ 05:25PM BLOOD Calcium-9.0 Phos-4.1 Mg-1.7

Discharge Labs:
===============
___ 06:40AM BLOOD WBC-5.1 RBC-3.80* Hgb-11.4 Hct-35.8 
MCV-94 MCH-30.0 MCHC-31.8* RDW-12.0 RDWSD-42.0 Plt ___
___ 06:40AM BLOOD Glucose-90 UreaN-10 Creat-0.7 Na-147 
K-4.4 Cl-107 HCO3-29 AnGap-11
___ 06:40AM BLOOD ALT-112* AST-31 AlkPhos-207* TotBili-0.3
___ 06:40AM BLOOD Lipase-32
___ 06:40AM BLOOD Calcium-9.2 Phos-4.1 Mg-1.___ with PMH history of ETOH use, pancreatitis, GERD, recently 
found to have a biliary stricture, who presented for monitoring 
post-ERCP. 

# Biliary/pancreatic ductal strictures s/p EUS, ERCP, plastic 
stent
and brushings
Has a history of pancreatitis and was recently seen in Pancreas 
Clinic. MRCP was obtained which showed a dilated gallbladder 
consistent with chronic
cholecystitis. There was also abrupt tapering of CBD and PD in 
the head of the pancreas.
She underwent ERCP and EUS for further evaluation. Plastic stent 
was placed, sphincterotomy was performed, and brushings were 
obtained.
She was hydrated overnight post-procedure. She had very mild 
abdominal pain in the morning which quickly resolved. Lipase was 
normal. Diet was advanced and she was tolerating a regular diet 
at time of discharge. Per ERCP recommendations she was 
discharged on prophylactic ciprofloxacin with plans for a 5 day 
course.

# GERD: continued omeprazole 

> 30 minutes spent on discharge coordination and planning

Transitional Issues:
====================
- needs follow up ERCP in ___ weeks for stent pull
- pathology from bile duct brushings pending at time of 
discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. TraZODone 50 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 4 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*8 Tablet Refills:*0 
2.  Omeprazole 20 mg PO DAILY  
3.  TraZODone 50 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Biliary stricture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came in to have an ERCP procedure. The procedure was 
performed because you were found to a narrowed area of your bile 
duct. A stent was placed to open up the blockage. A biopsy was 
also performed.

You will need another ERCP in ___ weeks to have the stent 
removed.
The ERCP doctors ___ with the biopsy results. Please 
call the office at ___ if you have not heard from 
anyone in 10 days.

You are also being discharged on an antibiotic to help prevent 
an infection after the procedure. You should take this 
antibiotic for the next four days.

It was a pleasure taking care of you, and we're happy that 
you're feeling better!
 
Followup Instructions:
___